US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[4-(methyloxy)-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide (54 mg, 0.00008 mol) in DCM with 1,1-dimethylethyl 1-piperazinecarboxylate (23.3 mg, 0.00012 mol) and sodium triacetoxyborohydride (34 mg., 0.00016 mol) and AcOH (6 μL) were agitated overnight on a shaker. LC-MS was used to monitor the reaction. The reaction was quenched with sat. aq. NaHCO3, then extracted with DCM (2×). Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. The residue was taken up in DCM (10 mL) containing 25% TFA and allowed to stand at room temperature for 3 h. LC-MS showed the reaction to be complete. Solvent was stripped off. Purification was carried out on a Gilson instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase back-extracted with EtOAc. Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of DCM and transferred to a vial and pumped down to afford the title compound as a white solid [37.6 mg (63%)]. LC-MS m/z 745.4 (M+H)+.

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-4-(methyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.00008 mol, 54 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2OC)C2=CC(=CC=C2)C=O)CC | C39H42N6O5
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 0.00012 mol, 23.3 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium triacetoxyborohydride | 0.00016 mol, 34 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 6 μL | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[4-(methyloxy)-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 37.6 mg, 63% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2OC)C2=CC(=CC=C2)CN2CCNCC2)CC | C43H52N8O4
